US05102891
1-(Propyl-4-pyridinylamino)-1H-indol-5-ol
To 0.3 g of 10% Pd/C in 10 ml of absolute ethanol was added 5-phenylmethoxy-1-(propyl-4-pyridinylamino)-1H-indole (3.0 g) in 240 ml of ethanol and this was hydrogenated on a Parr apparatus for 48 hours at 50° C. and 50 psig H2. The reaction mixture was then filtered and the filtrate concentrated to yield an oil (2.2 g), which was eluted with 5% methanol/dichloromethane on a silica gel column via HPLC. The desired fractions were concentrated to yield a solid (1.8 g) which was recrystallized from methanol/ether (1:1) to yield a solid 1.6 g, m.p. 214°-216° C.

reactant | 5-phenylmethoxy-1-(propyl-4-pyridinylamino)-1H-indole | 3.0 g | C1(=CC=CC=C1)COC=1C=C2C=CN(C2=CC1)N(C1=CC=NC=C1)CCC | C23H23N3O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 240 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 1-(Propyl-4-pyridinylamino)-1H-indol-5-ol | 2.2 g | C(CC)N(N1C=CC2=CC(=CC=C12)O)C1=CC=NC=C1 | C16H17N3O
